US06861441B1
Ethyl [4-(4,9-diethoxy-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetate (5.86 g, 13.5 mmol) and potassium carbonate (12 g) were added to a mixture of ethanol (146 ml) and water (70 ml) and heated to reflux for 2 h. The solution was cooled to room temperature and the solvent evaporated under vacuum to leave an off-white solid. The solid was slurried in water and the water was evaporated under vacuum. The residue was stirred in hydrochloric acid (2N) for 2 h, filtered and washed with water. Drying of the solid at 40° C. in a vacuum oven gave [4-(4,9-diethoxy-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetic acid as a white solid (4.5 g, 82%)

reactant | Ethyl [4-(4,9-diethoxy-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetate | 13.5 mmol, 5.86 g | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=CC=C(C=C1)CC(=O)OCC)=O)OCC)C=CC=C2 | C26H27NO5
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 146 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 70 ml | O | H2O
product | [4-(4,9-diethoxy-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl)phenyl]acetic acid | 4.5 g, 82% | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=CC=C(C=C1)CC(=O)O)=O)OCC)C=CC=C2 | C24H23NO5
